US06521643B1
To a suspension of N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)-N′-benzoylthiourea (700 mg) in methanol (7 ml) was added an aqueous sodium hydroxide solution (1N, 1.9 ml) dropwise. The mixture was stirred at 60° C. for 1 hour, cooled to ambient temperature, and the pH was adjusted to 8.0 with 1N hydrochloric acid. The mixture was diluted with water (50 ml) and stirred for 5 minutes. The precipitate was collected by filtration, washed with water and diisopropyl ether and dried under reduced pressure to give N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)thiourea (438 mg).

reactant | N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)-N′-benzoylthiourea | 700 mg | CC=1N=C(SC1C1=NC=CC(=C1)C)NC(=S)NC(C1=CC=CC=C1)=O | C18H16N4OS2
reactant | sodium hydroxide | 1N, 1.9 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 7 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | N-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)thiourea | 438 mg | CC=1N=C(SC1C1=NC=CC(=C1)C)NC(=S)N | C11H12N4S2
